US04234578
2.09 g of p-toluenesulphonic acid monohydrate are added to a suspension of 5.0 g of 7β-amino-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid (U.S. Pat. No. 3,516,997) in 200 ml of methanol, whilst stirring; this slowly produces a clear solution, which is concentrated under reduced pressure. Diethyl ether is added and the p-toluenesulphonic acid salt of 7β-amino-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4carboxylic acid is filtered off. The salt is dissolved in 100 ml of dioxane and 2.5 g of diphenyldiazomethane are added in portions to the solution. The mixture is stirred for 18 hours at room temperature and concentrated under reduced pressure; 100 ml of an 0.1 N aqueous sodium bicarbonate solution are added to the residue and the mixture is extracted with twice 100 ml of ethyl acetate. The organic extracts are washed successively with water and with a saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated. The crystallisation from diethyl ether gives 7β-amino-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid diphenylmethyl ester, thin layer chromatogram (silica gel): Rf=0.21 (system: chloroform/ethyl acetate/acetic acid, 80:19:1); ultraviolet absorption spectrum (ethanol): λmax =269 mμ (ε=6,400); infrared absorption spectrum (in methylene chloride); characteristic bands at 2.93μ, 5.60μ and 6.15μ.

reactant | p-toluenesulphonic acid monohydrate | 2.09 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 7β-amino-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid | 5.0 g | N[C@H]1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C10H12N6O3S2
solvent | methanol | 200 ml | CO | CH4O
product | 7β-amino-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)C(C)SC2=NN=NN2 | C23H22N6O3S2
